US07375121B2
Benzyl[2-({6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}methyl)-3-ethoxy-3-oxopropyl]phosphinic acid (62 mg; 0.13 mmol) was dissolved in THF (1 mL) and water (1 mL). LiOH (12 mg; 0.5 mmol) was added, and the reaction was stirred at room temperature overnight. The reaction mixture was concentrated, water (1 mL) was added and the aqueous solution was extracted with CHCl3 (1×1 mL). 0.5 M aqueous HCl (1 mL) was added to the aqueous solution, and the resulting acidic aqueous solution was extracted with CHCl3 (3×2 mL). The combined organic phases were dried and concentrated to afford 46 mg (81%) of 3-[benzyl(hydroxy)phosphoryl]-2-({6-[(tert-butoxycarbonyl)amino]-pyridin-3-yl}methyl)propanoic acid.

reactant | Benzyl[2-({6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}methyl)-3-ethoxy-3-oxopropyl]phosphinic acid | 0.13 mmol, 62 mg | C(C1=CC=CC=C1)P(O)(=O)CC(C(=O)OCC)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C | C23H31N2O6P
reactant | LiOH | 0.5 mmol, 12 mg | [Li+].[OH-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | 3-[benzyl(hydroxy)phosphoryl]-2-({6-[(tert-butoxycarbonyl)amino]-pyridin-3-yl}methyl)propanoic acid | 46 mg, 81% | C(C1=CC=CC=C1)P(=O)(O)CC(C(=O)O)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C | C21H27N2O6P
